US08030345B2
4-Chloro-N-{8-chloro-1-(2,4-dichloro-phenyl)-1,4,5,6-tetrahydro-1,2-diaza-benzo [e] azulene-3-carbonyl}-benzene-sulfonamide (2.0 g, 3.44 mmol) and PCl5 (1.56 g, 6.88 mmol) in chlorobenzene (20 mL) were refluxed at ca. 120° C. over a period of 3.0 h. The solvents were evaporated under reduced pressure to afford yellow gummy solid. The gummy solid was taken in dichloromethane (15 mL) and cooled to 0-5° C. To this cooled solution, 40% aq. monomethyl amine solution (5.0 mL) was added and stirred at ca. 29° C. over a period of 1 h. The reaction mixture was diluted with water (100 mL) and extracted with dichloromethane. The organic layer was separated, dried over anhydrous Na2SO4 and evaporated under reduced pressure to afford yellow oil. The oil was purified through column chromatography to afford 4-Chloro-N-{[8-chloro-1-(2,4-dichloro-phenyl)-1,4,5,6-tetrahydro-1,2-diaza-benzo [e] azulene-3-yl]-methylamino-methylene}-benzene sulfonamide (0.175 g, 0.294 mmol) as title compound 1, a white solid.

reactant | 4-Chloro-N-{8-chloro-1-(2,4-dichloro-phenyl)-1,4,5,6-tetrahydro-1,2-diaza-benzo [e] azulene-3-carbonyl}-benzene-sulfonamide | 3.44 mmol, 2.0 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)C1=NN(C=2C3=C(CCCC12)C=C(C=C3)Cl)C3=C(C=C(C=C3)Cl)Cl | C25H17Cl4N3O3S
reactant | PCl5 | 6.88 mmol, 1.56 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | monomethyl amine | 5.0 mL | CN | CH5N
solvent | chlorobenzene | 20 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 4-Chloro-N-{[8-chloro-1-(2,4-dichloro-phenyl)-1,4,5,6-tetrahydro-1,2-diaza-benzo [e] azulene-3-yl]-methylamino-methylene}-benzene sulfonamide | 0.294 mmol, 0.175 g | ClC1=CC=C(C=C1)S(=O)(=O)N=C(NC)C1=NN(C=2C3=C(CCCC12)C=C(C=C3)Cl)C3=C(C=C(C=C3)Cl)Cl | C26H20Cl4N4O2S
